US04331814
1-Phenylsulphonyl-3-methyl-butadiene was prepared by reacting phenyl-4-chloro-3-methyl-but-2-enyl-sulphone with triethylamine in benzene. The chlorosulphone which was dehydrochlorinated in this way was itself prepared by reacting sodium phenylsulphinate with 1,4-dichloro-2-methyl-2-butene in equimolecular amounts in anhydrous ethanol.

reactant | phenyl-4-chloro-3-methyl-but-2-enyl-sulphone | C1(=CC=CC=C1)C(C=C(CCl)C)S(=O)(=O)C(C=C(CCl)C)C1=CC=CC=C1 | C22H24Cl2O2S
reactant | chlorosulphone | ClS(=O)(=O)Cl | Cl2O2S
reactant | sodium phenylsulphinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 1,4-dichloro-2-methyl-2-butene | ClCC(=CCCl)C | C5H8Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Phenylsulphonyl-3-methyl-butadiene | C1(=CC=CC=C1)S(=O)(=O)C=CC(=C)C | C11H12O2S
